US07008950B1
5-(4-Methoxybenzyloxy)-2,2,4,6,7-pentamethyl-3-[4-(4-methyl-1-piperazinyl)phenyl]-2,3-dihydrobenzofuran
Using 2,2,4,6,7-pentamethyl-3-[4-(4-methyl-1-piperazinyl)phenyl]-2,3-dihydrobenzofuran-5-ol and 4-methoxybenzyl chloride, the title compound was obtained in the same manner as In Example 1.

reactant | 2,2,4,6,7-pentamethyl-3-[4-(4-methyl-1-piperazinyl)phenyl]-2,3-dihydrobenzofuran-5-ol | CC1(OC2=C(C1C1=CC=C(C=C1)N1CCN(CC1)C)C(=C(C(=C2C)C)O)C)C | C24H32N2O2
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 5-(4-Methoxybenzyloxy)-2,2,4,6,7-pentamethyl-3-[4-(4-methyl-1-piperazinyl)phenyl]-2,3-dihydrobenzofuran | Yield: 42% | COC1=CC=C(COC=2C(=C(C3=C(C(C(O3)(C)C)C3=CC=C(C=C3)N3CCN(CC3)C)C2C)C)C)C=C1 | C32H40N2O3
